data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8578,"CC[O-:1].O=C1CCCCC1CC[C:2]([CH2:3][H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,547,"CCCCOC[CH:1]=[C:2](OC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4141,"CCCCC12CCC([O:1][H:2])C(OC)(CCC3C1CC3(C)C)C2.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7174,"CC(=O)OCC1C(OC(C)=O)C(OC(C)=O)C(OC(C)=[O:1])[CH:2]=[O+:3]1.CC(=O)O[B-](F)(F)F.OC1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,970,"CC(C)(C)[Si:1](C)(C)Cl.CC(C)C.COC1=CC=C(COCC(CC2(CC(COCC3=CC=C(OC)C=C3)[O-:2])SCCCS2)O[Si](C)(C)C(C)(C)C)C=C1.[Li+]|(2, 1)"
train,pmechdb_split_0,0,64,"CC(=O)[O-:1].O=C(O)C[NH+:2](C(O)(CCC(=O)C1=CC=CO1)C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2505,"CCCC(N(C)CCC)=[O:1].CC[BH-](CC)CC.[AlH4-].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,3297,"CC[S+:1](CC=C(C)O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9947,"CC1=CO[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,7282,"CCN1CCC23C4=C5C=CC(OC)=C4OC2[C:1]([NH:2]N)([OH:3])CCC3(O)C1C5.O.OCCOCCO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5683,"CC[O+:1](C(C)N(C)C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9621,"I[P+:1](I)(I)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4290,"C=C=C1CCC2(C)CC[C:1]([OH:2])=[CH:3]C12C.CS(=O)(=O)[O:4][H:5]|(2, 1);((1, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2512,"C[S:1](C)=O.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9832,"C[C:1](C)([H:2])[CH:3](C)[Br:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7200,"CC[O:1][C:2](OC)(C(C)C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10295,"CN[CH:1]=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1341,"CC(C)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C(C(F)(F)F)=CC=C2.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6379,"COC(C[CH+:1][CH2:2][Si-:3](C)(C)(C)OS(=O)(=O)C(F)(F)F)C1=C(Cl)C=CC=C1.C[O][Sc]([O]S(=O)(=O)C(F)(F)F)[O]S(=O)(=O)C(F)(F)F|((3, 2), 1)"
train,pmechdb_split_0,0,4749,"C1=CC=NC=C1.CN(C)C1=CC=[N+]([C:1](C2=CC=CC=C2)([O-:2])[Cl:3])C=C1.NC1=C([N+](=O)[O-])C=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7750,"CC(C)[CH2:1][Br:2].N#C[CH-:3]C#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3814,"CCO[C:1](CC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6341,"CC(=O)NC1C=CC(O[I:1]2(OC(C)=O)([O:2]C(C)=O)OC(=O)C3=C2C=CC=C3)CC1NC(=O)OC(C)(C)C.CC(=O)O|((1, 2), 2)"
train,pmechdb_split_0,0,4463,"CC(=O)[NH+:1]=[CH:2]C.C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9182,"B.CCCC(C=O)CC(=O)OC(C)(C)C.CC[O:1][C:2](=O)[O-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7394,"CN(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,7288,"CN(C)C=O.ClC1=CC=C(N2CC[NH:1]CC2)C=C1Cl.O=C(C1=CC=C(C2=CC=CC=C2)C=C1)[CH2:2][Cl:3].O=C([O-])[O-].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8221,"CN(C)[C:1]1=[CH:2]C=C(Br)C=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5989,"CCC(C)[CH:1]=[O+:2][B-](F)(F)F.CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[CH2][CH:3]=[CH2:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8219,"CO[C+:1]1C=CC2=C(C=CC=C2)[C:2]1(C(C)C)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,305,"C1=CC2=C(C=C1)C(=[NH:1])SC2.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6977,"C[O+:1]([PH](I)(I)I)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4008,"C=CCC1C2(C)C=CC1(C)[C:1](=[O+:2]C)CC2.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6540,"N.N#[C-:1].N=C[NH2+:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8898,"CO.COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=O)CC23CC[NH:1]1.COC1=C2C3=C(C=C1)CC1NCCC34C1CC=C(O)C4[O+:2]2[H:3].CS(=O)(=O)[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7129,"CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:1](=[O:2])[N:3]=[N+:4]=[N-:5].CC[NH+](CC)CC.O=P([O-])(OC1=CC=CC=C1)OC1=CC=CC=C1|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,193,"CC[N:1](CC)CC.COC(=O)C[N+:2](=CC1=C(C)C=CC=C1)[H:3].O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2525,"C1=CC=C([CH:1]=[CH:2][CH:3]=[O:4])C=C1.C1CC[NH:5]C1.O|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9937,"O=[N+]([O-])C1=CC=C2C=C[CH:1]=[CH:2]C2=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,1730,"N[C:1]1([O-:2])OCCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8740,"C[NH:1]CC1=CC=CC=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8745,"CC1=CC=CC(C)=[NH+]1.C[Si](C)(C)OC1=C2C(O[Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F)=CCC3(OC4=CC=CC5=CC=CC(=C54)O3)C2=CC=C1.O=S(=O)([O-])C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,1468,"CCCC[B:1](CCCC)OS(=O)(=O)C(F)(F)F.CCN(C(C)C)C(C)C.COC1=CC=C(COC(CC(C)=[O:2])C(C)C)C=C1|(2, 1)"
train,pmechdb_split_0,0,6947,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C1(C(=O)OCC)C(C)CCC2(C#N)C(=O)CC(OC)([OH:1])CC21.CC[OH+:2][H:3]|(1, 3);((3, 2), 2)"
